Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
hemoptysis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The patient presented ___ with fever, vomiting, and decreased
PO intake for 2 days.  He had been in his normal state of health
until night of ___, when he had 5 consecutive episodes of
vomiting.  The night before, he had had a ___ dinner at a
friend's house, and no one else from that party became ill.  He
was also having fevers, as high as 102, and continued to feel
unwell ___ and ___, which prompted him to present.  
Additionally,
the vomit has been tinged with blood.

In the ED on exam, he was noted to have edematous tonsils but
otherwise benign findings.  His labs were notable for a white
count of 3.0, platelets of 59, INR of 1.3, creatinine of 1.5, 
AST
of 64.  The thinking was that he had either a viral or bacterial
upper airway or GI illness, and that the blood-tinged emesis was
likely due to retching, and the lab abnormalities were due to
infection and dehydration..  He was given ondansetron, IV 
fluids,
and ibuprofen with resolution in symptoms, and he was discharged
with penicillin.

He then went home, and essentially felt well, with no further
vomiting or fevers, but on the morning of ___, he woke up and
felt blood pooling in the back of his throat.  He then coughed
into his sink and there was bright red and dark red blood mixed
together.  This prompted him to represent

 
Past Medical History:
none
 
Social History:
___
Family History:
He notes no family history of hematological disorders,
malignancy, liver disease.  Only notes that hypertension 
diabetes
run in his family.
 
Physical Exam:
ADMISSION EXAM
==============
T 97.7 HR85 BP 117/66 RR16 O2100% RA 
GENERAL: WN/WD, NAD.
HEAD: NC/AT, conjunctiva clear, EOMI, pupils reactive, sclera
anicteric, oral mucosa w/o lesions
NECK: Supple, no LAD, no thyromegaly. JVP is 5 cm.
CARDIAC: Precordium is quiet, PMI non-displaced, RRR, S1S2 w/o
m/r/g. 
RESPIRATORY: Speaking in full sentences, CTABL. 
ABDOMEN: Unremarkable inspection, soft, NT, +BS. No palpable
organomegaly. 
EXTREMITIES: Warm, no edema, peripheral pulses are strong and
full. 
SKIN: No obvious lesions over the face, thorax, abdomen,
extremities.
NEUROLOGIC: Grossly intact, face symmetric, speech fluent, 
stands
from seated position, gait is hesitant, normal Romberg, normal
finger to nose, upper and lower extremity strength ___.
PSYCHIATRIC: Pleasant and cooperative. 

==============
DISCHARGE EXAM
==============
Vitals:1154 Temp: 98.3 PO BP: 121 / 72 HR: 79 RR: 18 O2sat97 Ra 
General: lying in bed, comfortable in NAD
HEENT: NCAT, PERRL, EOMI, sclera anicteric. MMM, tonsils swollen
and erythematous b/l without exudate. 
Neck: supple, small L occipital lymph node enlargement, 
otherwise
no LAD. No JVD
Lungs:  normal WOB, Lungs CTAB
CV: Normal S1/S2, normal rate regular rhythm, no appreciable
m/r/g.
GI:  Soft, NTND, +BS, no appreciable hepatosplenomegaly.
Ext: Warm, well-perfused, peripheral pulses are strong and full.
Neuro: A&Ox3, CN II-XII intact. neg Romberg, gait intact. 

 
Pertinent Results:
ADMISSION LABS
==============
___ 10:15PM   LD(LDH)-1288* ___ 10:15PM   CALCIUM-8.5 PHOSPHATE-2.8 MAGNESIUM-2.2 URIC 
ACID-4.2
___ 10:15PM   VIT B12-464
___ 10:15PM   HBsAg-NEG HBs Ab-POS HBc Ab-NEG HAV Ab-POS*
___ 10:15PM   HIV Ab-REACTIVE* HIV1-NEGATIVE HIV2-NEGATIVE
___ 10:15PM   HCV Ab-NEG
___ 10:15PM URINE  HOURS-RANDOM CREAT-233 SODIUM-36 TOT 
PROT-591 PROT/CREA-2.5*
___ 10:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 10:15PM URINE  COLOR-Yellow APPEAR-Clear SP 
___
___ 10:15PM URINE  BLOOD-MOD* NITRITE-NEG PROTEIN->600* 
GLUCOSE-NEG KETONE-40* BILIRUBIN-SM* UROBILNGN-8* PH-7.0 
LEUK-NEG
___ 10:15PM URINE  RBC-2 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 09:43AM   GLUCOSE-108* UREA N-13 CREAT-1.2 SODIUM-136 
POTASSIUM-3.9 CHLORIDE-99 TOTAL CO2-26 ANION GAP-11
___ 09:43AM   ALT(SGPT)-101* AST(SGOT)-205* ALK PHOS-60 TOT 
BILI-1.3
___ 09:43AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 09:43AM   WBC-2.2* RBC-4.48* HGB-13.6* HCT-40.1 MCV-90 
MCH-30.4 MCHC-33.9 RDW-12.0 RDWSD-39.2
___ 09:43AM   NEUTS-46 ___ MONOS-16* EOS-1 BASOS-0 
ATYPS-3* AbsNeut-1.01* AbsLymp-0.81* AbsMono-0.35 AbsEos-0.02* 
AbsBaso-0.00*
___ 09:43AM   PLT SMR-VERY LOW* PLT COUNT-53*
___ 09:43AM   ___ PTT-26.2 ___

==============
PERTINENT LABS
==============
___ 10:10AM BLOOD ALT-110* AST-140* LD(LDH)-1004* 
CK(CPK)-1302* AlkPhos-56 TotBili-1.4
___ 02:38AM BLOOD ALT-106* AST-102* LD(LDH)-776* 
CK(CPK)-697* AlkPhos-59 TotBili-1.2
___ 01:30AM BLOOD Hapto-<10* ___
___ 02:38AM BLOOD Hapto-<10* Ferritn-5389*
___ 10:10AM BLOOD IgM HAV-NEG
___ 01:30AM BLOOD ANCA-NEGATIVE
___ 01:30AM BLOOD ___ dsDNA-NEGATIVE
___ 01:30AM BLOOD C3-113 C4-50*
___ 02:38AM BLOOD HIV1 VL->7.0*
Monospot negative, RPR negative

==============
DISCHARGE LABS
==============

___ 06:41AM BLOOD WBC-3.7* RBC-4.27* Hgb-12.7* Hct-39.1* 
MCV-92 MCH-29.7 MCHC-32.5 RDW-12.1 RDWSD-40.5 Plt ___
___ 04:00PM BLOOD Neuts-30.0* ___ Monos-23.2* 
Eos-0.8* Baso-0.4 Im ___ AbsNeut-0.72* AbsLymp-1.02* 
AbsMono-0.56 AbsEos-0.02* AbsBaso-0.01
___ 06:41AM BLOOD Plt ___
___ 06:41AM BLOOD Glucose-92 UreaN-8 Creat-1.2 Na-140 K-4.9 
Cl-104 HCO3-28 AnGap-8*
___ 06:41AM BLOOD ALT-111* AST-81* LD(LDH)-634* CK(CPK)-287 
AlkPhos-66 TotBili-0.9
___ 06:41AM BLOOD Ferritn-2785*
___ 04:00PM BLOOD  WBC-2.4* Lymph-42 Abs ___ CD3%-76 
Abs CD3-766 CD4%-30 Abs CD4-297* CD8%-44 Abs CD8-446 
CD4/CD8-0.67*

=============
PENDING LABS
=============
___ 10:15PM BLOOD CMV IgG-PND EBV IgG-PND EBNA-PND EBV 
IgM-PND EBVI-PND.
immunophenotyping, Anaplasma phagocytophilum DNA, parvovirus B19 
antibodies. 

 
Brief Hospital Course:
Mr. ___ is a ___ w/ no PMH who presents w/ 
hemoptysis, found to have pancytopenia and acute HIV-1 
infection.

ACTIVE ISSUES
===================
# Hemoptysis: suspect this was in the setting of retching and 
cough with
thrombocytopenia. CT lungs unremarkable. Improved on ___.

# Pancytopenia:
The patient presented with pancytopenia and with hypoproduction 
per reticulocyte count that was thought likely from new HIV-1 
infection with accompanying transaminitis. He also had a degree 
of sequestration given hypersplenism on imaging. He was noted to 
have elevated LDH and low haptoglobin w/ hemolysis, though 
bilirubin, uric acid, potassium and blood smear were not 
consistent with lysis. Found to be HIV Ab moderately reactive, 
HIV1ab non-reactive, HIV2ab non-reactive. Found to have positive 
HIV viral load>7. HIV NAT, HIV genotyping pending at discharge. 
CD4 count noted to be 294. The patient was informed of his 
diagnosis and social work support was offered for coping. He had 
a prescription for Biktarvy sent to his local ___ pharmacy.
- Other results: HAV IgG POSITIVE, HAV IgM negative, monospot 
negative, parasite smear neg, HCV negative, RPR negative, ___ 
negative, HSV1 IgG POSITIVE, HSV2 IgG negative, B12 wnl, Hep B 
vaccinated (no past infection)
- He did not require transfusion while in house.
- Other pending labs at discharge: EBV serologies, CMV IgG, 
immunophenotyping, Anaplasma phagocytophilum DNA, parvovirus B19 
antibodies. 

# Transaminitis:
His predominantly hepatocellular pattern of transaminitis with 
ALT and AST in hundreds was thought secondary to acute HIV 
infection. His transaminitis was improving at discharge. RUQUS 
w/o evidence of liver disease, only mild splenomegaly. The 
patient did not have any abdominal pain. There was low suspicion 
of drug-related liver injury or toxic ingestions. Hepatitis 
panel per above.

# Proteinuria:
He was noted to have ___ on initial ED visit ___, Had 
reassuringly downtrending creatinine during his admission with 
return to baseline by discharge.. It was possibly due to 
overflow in the setting of
myoglobinuria (in the setting of CK elevation, blood in urine) 
and with dehydration. He was not hypertensive and did not have 
any peripheral edema to
suggest glomerular disease with nephrotic syndrome. This problem 
improved with IV and PO hydration.

# Hematuria:
He had moderate blood in his urine with only 2 RBCs, which was 
suggestive of myoglobin or hemoglobin, possibly w/ concomitant 
CK elevation consistent with rhabdomyolysis. He was hydrated 
through his hospital course and had improvement in his urine by 
discharge.

# Gait imbalance:
His gait was noted to be hesitant on presentation and he stated 
when walking from bed to bathroom, he felt as if he would fall. 
There was a plan for head imaging, but imbalance had resolved by 
morning of ___, with no recurrence with improved PO intake.

# Elevated CK:
Initially ___ had ___ with elevated CK (___), so possibly had a 
degree of muscle breakdown. CK downtrended throughout admission 
and was 287 at discharge with IV and PO hydration.

TRANSITIONAL ISSUES
=====================
[] New HIV diagnosis: Patient was started on Biktarvy for 
anti-retroviral medication for HIV. CD4 ~300. 
[] Pancytopenia: improving at discharge. Would recommend f/u CBC 
within 1 week of discharge. Abs neutrophil count uptrending at 
discharge at ~700.

#Code status: FULL CODE
#Contact: mother (___) ___, aunt (___) 
___

 
___ on Admission:
none
 
Discharge Medications:
1.  Biktarvy (bictegrav-emtricit-tenofov ala) 50-200-25 mg oral 
DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
=================
HIV-1

SECONDARY DIAGNOSES
=================
Hemoptysis
Pancytopenia
Transaminitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure caring for you at ___ 
___.

WHY WAS I IN THE HOSPITAL?  
- You were admitted to the hospital after you were found to be 
coughing up blood and had low blood cell counts. 

WHAT HAPPENED TO ME IN THE HOSPITAL? 
- You were found to be infected with the HIV-1 virus. 
- Your blood counts and labs were monitored and were improving 
at discharge.
- You were seen by the hematology team, who did not recommend 
any invasive procedures or additional testing at this point.

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?
- Continue care with your primary care doctor. Take your new 
medication as directed.

We wish you the best!

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___